US07411072B2
Propane-1-sulfonic acid [4-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-amide
Following procedures essentially as described in Example 90, 4-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenylamine (100 mg, 0.336 mmol) and 1-propanesulfonyl chloride (144 mg, 1.01 mmol) affords 69 mg (51%) of the title compound as a colorless oil. MS (ES) 426 (M+Na), 402 (M−H); HPLC shows 99% purity.

reactant | 4-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenylamine | 0.336 mmol, 100 mg | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC3=CC=C(C=C3)N | C22H19N
reactant | 1-propanesulfonyl chloride | 1.01 mmol, 144 mg | C(CC)S(=O)(=O)Cl | C3H7ClO2S
product | Propane-1-sulfonic acid [4-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-amide | 69 mg, 51% | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC3=CC=C(C=C3)NS(=O)(=O)CCC | C25H25NO2S
